US05441955
3,8-Difluoroindolo[2,1-b]4-azaquinazoline-6,12-dione
Using the procedure in Example 56 and substituting 5-fluoroisatin for isatin and 2-amino-6-fluoropyridine-3-carboxylic acid (Rogers et al. U.S. Pat. No. 4,383,851, 1983) for 2-aminonicotinic acid gives the title compound.

reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 2-amino-6-fluoropyridine-3-carboxylic acid | NC1=NC(=CC=C1C(=O)O)F | C6H5FN2O2
product | 2-aminonicotinic acid | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
